US04912135
Preparation of methyl 3,5-bis(methoxyacetylamino)benzoate:
To a solution of methyl 3,5-diaminobenzoate dihydrochloride (7.2 g) in pyridine (100 ml) is added dropwise methoxyacetyl chloride (6.0 ml) at room temperature. The mixture is stirred at room temperature for 2 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water and chloroform. The organic layer is separated and washed with water and then with aqueous saturated sodium chloride solution, dired over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The resulting solid substance is recrystallized from ethanol to give the title compound (5.2 g) having the following physical properties.

reactant | methyl 3,5-diaminobenzoate dihydrochloride | 7.2 g | Cl.Cl.NC=1C=C(C(=O)OC)C=C(C1)N
reactant | methoxyacetyl chloride | 6.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3,5-bis(methoxyacetylamino)benzoate | 5.2 g | COCC(=O)NC=1C=C(C(=O)OC)C=C(C1)NC(COC)=O | C14H18N2O6
